US07829580B2
(d) (E)-4-(Acetylsulfanyl)-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidine
To a solution of (E)-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol (14.34 g) in N,N-dimethylformamide (100 ml) was added N,N-dimethylformamide dineopentyl acetal (14.90 ml). Then thioacetic acid (3.58 ml) was added to the reaction mixture under ice-cooling. The resulting mixture was stirred at room temperature for 30 minutes and then N,N-dimethylformamide dineopentyl acetal (14.90 ml) and additional thioacetic acid (3.58 ml) were supplemented, and the resulting mixture was stirred for one hour. Further N,N-dimethylformamide dineopentyl acetal (14.90 ml) and thioacetic acid (3.58 ml) were added, and the resulting mixture was stirred for 30 minutes. Still further N,N-dimethylformamide dineopentyl acetal (14.90 ml) and thioacetic acid (3.58 ml) were added, and the resulting mixture was stirred for 30 minutes. Then aqueous sodium chloride solution was added to the reaction mixture, and the product was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and the organic layer was dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, the residue was repeatedly purified for three times by silica gel chromatography using ethyl acetate and hexane (1:1 or 2:1) as the eluent to afford the less polar isomer title compound (7.45 g, yield: 47%), as a yellow foam and the more polar isomer 5-((acetylsulfanyl){1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methyl)-1-(triphenylmethyl)-1,2,3,6-tetrahydropyridine (5.58 g, yield: 35%) as an orange-coloured foam, respectively.

reactant | (E)-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol | 14.34 g | C(C)OC(=O)CCCN1N=NC=C1\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H36N4O3
reactant | N,N-dimethylformamide dineopentyl acetal | 14.90 ml | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | thioacetic acid | 3.58 ml | C(C)(=S)O | C2H4OS
reactant | N,N-dimethylformamide dineopentyl acetal | 14.90 ml | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | thioacetic acid | 3.58 ml | C(C)(=S)O | C2H4OS
reactant | N,N-dimethylformamide dineopentyl acetal | 14.90 ml | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | thioacetic acid | 3.58 ml | C(C)(=S)O | C2H4OS
reactant | N,N-dimethylformamide dineopentyl acetal | 14.90 ml | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | thioacetic acid | 3.58 ml | C(C)(=S)O | C2H4OS
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (E)-4-(Acetylsulfanyl)-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidine | 7.45 g, yield: 47% | C(C)(=O)SC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C1=CN=NN1CCCC(=O)OCC | C35H38N4O3S
